US08541589B2
A mixture of 4-(5-bromopyrimidin-4-yl)-1-naphthonitrile (45 mg, 0.14 mmol), methyl thioglycolate (74 mg, 0.7 mmol) and potassium carbonate (27 mg, 0.2 mmol) in DMF (0.6 mL) was heated under microwave irradiation to 160° C. for 0.5 hour. The mixture was washed with water, extracted with ethyl acetate and purified by chromatography to yield methyl 2-(4-(4-cyanonaphthalen-1-yl)pyrimidin-5-ylthio)acetate (22 mg, 47%).

reactant | 4-(5-bromopyrimidin-4-yl)-1-naphthonitrile | 0.14 mmol, 45 mg | BrC=1C(=NC=NC1)C1=CC=C(C2=CC=CC=C12)C#N | C15H8BrN3
reactant | methyl thioglycolate | 0.7 mmol, 74 mg | C(CS)(=O)OC | C3H6O2S
reactant | potassium carbonate | 0.2 mmol, 27 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | methyl 2-(4-(4-cyanonaphthalen-1-yl)pyrimidin-5-ylthio)acetate | 22 mg, 47% | C(#N)C1=CC=C(C2=CC=CC=C12)C1=NC=NC=C1SCC(=O)OC | C18H13N3O2S
